US08314109B2
To a suspension of 700 mg of ethyl 6-(6-aminopyrid-2-yl)imidazo[1,2-a]pyridine-2-carboxylate and 25 mg of 4-dimethylaminopyridine in 5 mL of acetonitrile are added 1.14 mL of di-tert-butyl dicarbonate. The mixture is stirred for 16 hours at 25° C. and then concentrated. The residue is chromatographed on silica, eluting with gradient of ethyl acetate and hexane (from 50/50 to 100/0) to give 370 mg of ethyl 6-(6-{bis[(1,1-dimethylethoxy)carbonyl]amino}pyrid-2-yl)imidazo[1,2-a]pyridine-2-carboxylate

reactant | ethyl 6-(6-aminopyrid-2-yl)imidazo[1,2-a]pyridine-2-carboxylate | 700 mg | NC1=CC=CC(=N1)C=1C=CC=2N(C1)C=C(N2)C(=O)OCC | C15H14N4O2
reactant | di-tert-butyl dicarbonate | 1.14 mL | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
catalyst | 4-dimethylaminopyridine | 25 mg | CN(C1=CC=NC=C1)C | C7H10N2
solvent | acetonitrile | 5 mL | C(C)#N | C2H3N
product | ethyl 6-(6-{bis[(1,1-dimethylethoxy)carbonyl]amino}pyrid-2-yl)imidazo[1,2-a]pyridine-2-carboxylate | 370 mg | CC(C)(OC(=O)N(C1=CC=CC(=N1)C=1C=CC=2N(C1)C=C(N2)C(=O)OCC)C(=O)OC(C)(C)C)C | C25H30N4O6
